US05580866
A solution of sodium periodate (3.09 g) in water (25 ml) was added dropwise with cooling to a stirred solution of 6-chloro-2,3,4,5-tetrahydro-1,4-benzothiazepine (2.88 g, prepared in a similar manner to that described in the preceding paragraph) in dichloromethane (75 ml). The stirring was continued at room temperature for 19 hours. Solvent was removed from the mixture by evaporation at reduced pressure. Purification of the residue by flash chromatography using dichloromethane/ethanol (95:5) as eluent gave 6-chloro-2,3,4,5-tetrahydro-1,4-benzothiazepine 1-oxide, which was recrystallised from ethyl acetate. Yield 2.15 g (m.p. 125°-126° C.).

reactant | sodium periodate | 3.09 g | I(=O)(=O)(=O)[O-].[Na+]
reactant | 6-chloro-2,3,4,5-tetrahydro-1,4-benzothiazepine | ClC1=CC=CC2=C1CNCCS2 | C9H10ClNS
solvent | water | 25 ml | O | H2O
solvent | dichloromethane | 75 ml | ClCCl | CH2Cl2
product | 6-chloro-2,3,4,5-tetrahydro-1,4-benzothiazepine 1-oxide | ClC1=CC=CC2=C1CNCCS2=O | C9H10ClNOS
